US04071527
Pyridinium hydrobromide perbromide (320 mg.) was added to a mixture of 4,4'-dithio-bis[methyl-3-(2-phenoxyacetamido)-α-isopropenyl-2-oxoazetidine-1-acetate] (670 mg.), pyridine (158 mg.) and 1,2-dimethoxyethane (10 cc). The mixture was stirred for 5 hours at room temperature and concentrated under reduced pressure. The residue was dissolved in ethyl acetate and the ethyl acetate layer was washed in turn with water, a dil. phosphoric acid aqueous solution, a sodium bicarbonate solution and water, dried and concentrated. The residue was subjected to a chromatography of silica gel in which chloroform was used as the eluant. The eluate was concentrated to yield, as the residue, as amorphous material (360 mg.) of methyl 7-(2-phenoxyacetamido)-3-methyl-3-bromocepham-4-carboxylate.

reactant | Pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | 4,4'-dithio-bis[methyl-3-(2-phenoxyacetamido)-α-isopropenyl-2-oxoazetidine-1-acetate] | 670 mg | CC1(C(N(C1SSC1C(C(N1C(C(=O)[O-])C(=C)C)=O)(NC(COC1=CC=CC=C1)=O)C)C(C(=O)[O-])C(=C)C)=O)NC(COC1=CC=CC=C1)=O
reactant | pyridine | 158 mg | N1=CC=CC=C1 | C5H5N
reactant | 1,2-dimethoxyethane | 10 cc | COCCOC | C4H10O2
product | methyl 7-(2-phenoxyacetamido)-3-methyl-3-bromocepham-4-carboxylate | 360 mg | O(C1=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)(Br)C)C(=O)OC)C1=O | C17H19BrN2O5S
